US04008274
5-Tert-butyl-2'-methyl-4'-nitrosalicylanilide
A solution of 9.7 g of 5-tert-butylsalicylic acid and 7.6 g of 2-methyl-4-nitroaniline in 120 ml of xylene is heated at 65° to 70° C. To a reaction solution is added a solution of 2.6 g of phosphorus trichloride in 30 ml of xylene. The whole mixture is refluxed for 2 hours. The hot reaction solution is decanted. The supernatant solution is cooled on an ice bath. The crystalline precipitate is collected by filtration. Recrystallization from methanol gives 11.5 g of the title compound as pale yellow needles, melting at 202°-204° C.

reactant | 5-tert-butylsalicylic acid | 9.7 g | C(C)(C)(C)C1=CC=C(C(C(=O)O)=C1)O | C11H14O3
reactant | 2-methyl-4-nitroaniline | 7.6 g | CC1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O2
reactant | phosphorus trichloride | 2.6 g | P(Cl)(Cl)Cl | Cl3P
solvent | xylene | 120 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5-Tert-butyl-2'-methyl-4'-nitrosalicylanilide | 11.5 g | C(C)(C)(C)C1=CC=C(C(C(=O)NC2=C(C=C(C=C2)[N+](=O)[O-])C)=C1)O | C18H20N2O4
